US04143055
N,N-diethyl-N'-(2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)-1,2-ethanediamine dihydrochloride
2.80 grams of 2-diethylamino-ethyl chloride and traces of potassium jodide are added to a solution of 3 grams of 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine and 2.02 grams of triethylamine in 50 cc of anhydrous toluene and the resulting reaction mixture is refluxed for 16 hours. After cooling and washing with water, the toluene phase is dried over Na2SO4 and then concentrated to dryness. Hydrochloric acid is added to an ether solution of the resulting oily residue until a solid precipitates then the mixture is cooled. The precipitate is recovered on filter and recrystallized from ethanol by addition of ethyl ether, yielding 3.55 grams of the title compound. M.p. 158°-159° C.

reactant | 2-diethylamino-ethyl chloride | 2.80 grams | C(C)N(CCCl)CC | C6H14ClN
reactant | potassium | [K] | K
reactant | 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine | 3 grams | COC=1C=C2C(CC(O2)C)=C(C1)N | C10H13NO2
reactant | triethylamine | 2.02 grams | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 cc | C1(=CC=CC=C1)C | C7H8
product | N,N-diethyl-N'-(2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)-1,2-ethanediamine dihydrochloride | 3.55 grams | Cl.Cl.C(C)N(CCNC1=CC(=CC2=C1CC(O2)C)OC)CC | InChI=1S/C16H26N2O2.2ClH/c1-5-18(6-2)8-7-17-15-10-13(19-4)11-16-14(15)9-12(3)20-16;;/h10-12,17H,5-9H2,1-4H3;2*1H
